US09315542B2
(2S,4S)-1-Iodo-4-((S)-3-methoxy-2-((S)-3-methoxy-2-(2-methylthiazol-5-carboxamido)propanamido)propanamido)-2-methyl-3-oxo-5-phenylpentan-2-yl 2-acetoxyacetate
Prepared according to procedures described above, by reacting 2-acetoxyacetic anhydride with N—((S)-1-(((S)-1-(((2S,4S)-4-hydroxy-5-iodo-4-methyl-3-oxo-1-phenylpentan-2-yl)amino)-3-methoxy-1-oxopropan-2-yl)amino)-3-methoxy-1-oxopropan-2-yl)-2-methylthiazole-5-carboxamide. 1H NMR (300 MHz, CDCl3): δ 8.09 (s, 1H), 7.31-7.15 (m, 6H), 7.05 (d, J=7.5 Hz, 1H), 6.96 (d, J=6.3 Hz, 1H), 5.39-5.34 (m, 1H), 4.78-4.70 (m, 3H), 4.55-4.46 (m, 1H), 3.89-3.82 (m, 2H), 3.78-3.72 (m, 1H), 3.62-3.53 (m, 2H), 3.48 (s, 3H), 3.45-3.42 (m, 1H), 3.32 (s, 3H), 3.18-3.09 (m, 1H), 2.95-2.86 (m, 1H), 2.76 (s, 3H), 2.18 (s, 3H), 1.27 (s, 3H); MS for C29H37IN4O10S

reactant | 2-acetoxyacetic anhydride | C(C)(=O)OCC(=O)OC(COC(C)=O)=O | C8H10O7
reactant | N—((S)-1-(((S)-1-(((2S,4S)-4-hydroxy-5-iodo-4-methyl-3-oxo-1-phenylpentan-2-yl)amino)-3-methoxy-1-oxopropan-2-yl)amino)-3-methoxy-1-oxopropan-2-yl)-2-methylthiazole-5-carboxamide | O[C@@](C([C@H](CC1=CC=CC=C1)NC([C@H](COC)NC([C@H](COC)NC(=O)C1=CN=C(S1)C)=O)=O)=O)(CI)C | C25H33IN4O7S
product | (2S,4S)-1-Iodo-4-((S)-3-methoxy-2-((S)-3-methoxy-2-(2-methylthiazol-5-carboxamido)propanamido)propanamido)-2-methyl-3-oxo-5-phenylpentan-2-yl 2-acetoxyacetate | C(C)(=O)OCC(=O)O[C@](CI)(C([C@H](CC1=CC=CC=C1)NC([C@H](COC)NC([C@H](COC)NC(=O)C1=CN=C(S1)C)=O)=O)=O)C | C29H37IN4O10S
